US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-heptylamine (50.9 μL) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-heptyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (36.4 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-heptylamine | 50.9 μL | CCCC(CCC)N | C7H17N
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-heptyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 36.4 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC(CCC)CCC)=O)C#N | C23H37FN4O2
